US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)thiazole-4-carboxamide
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide (0.2 g, 0.430 mmol) was added into a microwave vial with dry pyridine as a solvent under nitrogen atmosphere. 2-methoxyethylamine (0.187 ml, 2.152 mmol) was added and the mixture was heated with microwaves at 120° C. Next day a total of 0.187 ml of 2-methoxyethylamine was added and the reaction mixture was heated for additional 3 h. The reaction mixture was evaporated and the crude product dissolved in DCM, washed with Na2CO3, water and brine. The product was purified by Flash-chromatography. Yield 38.5%. 1H-NMR (400 MHz; MeOD): δ 1.25 (d, 3H), 2.50 (s, 3H), 3.35 (s, 3H), 3.40-3.43 (m, 2H), 3.46-3.49 (m, 2H), 4.34 (dd, 1H), 4.41 (dd, 1H), 4.47-4.56 (m, 1H), 6.49 (d, 1H), 7.19 (s, 1H), 7.55 (d, 1H), 7.64 (dd, 1H), 7.73 (d, 1H).

reactant | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide | 0.430 mmol, 0.2 g | BrC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C18H15BrClN5OS
reactant | 2-methoxyethylamine | 2.152 mmol, 0.187 ml | COCCN | C3H9NO
reactant | 2-methoxyethylamine | 0.187 ml | COCCN | C3H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)thiazole-4-carboxamide | Yield 38.5% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(SC1)NCCOC)C | C21H23ClN6O2S
